US05106878
100 ml of a 10 percent aqueous sodium hydroxide solution were added to a solution of 34.5 g of 1.5-dibromopentane, 9.9 g of 4-hydroxybenzophenone and 1.6 g of tetrabutylammonium bromide in 100 ml of methylene chloride. The heterogeneous mixture was stirred at room temperature overnight. The organic phase was separated, dried over sodium sulphate and evaporated. By chromatography of the residue on silica gel with hexane:ethyl acetate 7:3) there were obtained 13.47 g (78%) of 4-[(5-bromopentyl)oxy]benzophenone as a colorless oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1.5-dibromopentane | 34.5 g | BrCCCCCBr | C5H10Br2
reactant | 4-hydroxybenzophenone | 9.9 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
catalyst | tetrabutylammonium bromide | 1.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[(5-bromopentyl)oxy]benzophenone | 13.47 g, 78% | BrCCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C18H19BrO2
